US08871782B2
The general method described in Part L of Example 2 was used to treat 2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol with tert-butyl 4-(2-iodoethyl)piperidine-1-carboxylate. After chromatographic purification, tert-butyl 4-(2-{[2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethyl)piperidine-1-carboxylate was isolated as a viscous, orange oil.

reactant | 2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol | CC=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CC(C)C | C15H17N3O
reactant | tert-butyl 4-(2-iodoethyl)piperidine-1-carboxylate | ICCC1CCN(CC1)C(=O)OC(C)(C)C | C12H22INO2
product | tert-butyl 4-(2-{[2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethyl)piperidine-1-carboxylate | CC=1N(C2=C(C=NC=3C=C(C=CC23)OCCC2CCN(CC2)C(=O)OC(C)(C)C)N1)CC(C)C | C27H38N4O3
